US06291475B1
(a) iso-Propyl 7-benzyl-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate
NaOH (6.0 mL; 10M), H2O (10 mL) and iso-propylchloroformate (55 mmol) were added to a solution of 3-benzyl-3,7-diazabicyclo[3.3.1]nonane (10.8 g; 50 mmol; see Example E above)-in DCM (50 mL) The reaction mixture was stirred for 3 h and the phases were then separated. The organic phase -was washed with H2O and brine, dried and concentrated to give the sub-title compound in a 95% yield.

reactant | NaOH | 10M, 6.0 mL | [OH-].[Na+]
reactant | H2O | 10 mL | O | H2O
reactant | iso-propylchloroformate | 55 mmol | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | 3-benzyl-3,7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CNCC(C1)C2 | C14H20N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | iso-Propyl 7-benzyl-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | 95% yield | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2)C(=O)OC(C)C | C18H26N2O2
